US04341775
2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid (syn isomer, 2 g.), N,N-dimethylformamide (0.45 g.), phosphoryl chloride (1.03 g.), 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H- tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (2.6 g.), trimethylsilylacetamide (5.9 g.) and ethyl acetate (50 ml.) were treated in a similar manner to that of Example 6-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.7 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(=O)OC(C)(C)C | C13H18N4O6S
reactant | phosphoryl chloride | 1.03 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H- tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.6 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O | C16H23N7O5S2
reactant | trimethylsilylacetamide | 5.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.45 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C29H39N11O10S3
